US08633206B2
(3R)-1-[({trans-4-[methyl(7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]cyclohexyl}methyl)sulfonyl]piperidin-3-yl dihydrogen phosphate
(3R)-1-[({trans-4-[methyl(7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]cyclohexyl}-methyl)sulfonyl]piperidin-3-ol (100 mg, 0.24 mmol) was suspended in dichloromethane (5 mL). Diisopropylethylamine (0.05 mL, 0.3 mmol) was added followed by diethyl chloro phosphate (0.036 mL, 0.24 mmol). The reaction mixture was stirred under nitrogen overnight. Methanol (1 mL) was added to the flask and the reaction mixture was concentrated in vacuo. The residue was dissolved in dichloromethane (10 mL) and bromotrimethylsilane (2 mL, 14.4 mmol) was added. The reaction mixture was stirred under nitrogen at room temperature for 18 hours and then was concentrated in vacuo. The residue was purified by reverse phase HPLC. (2 mg, 5%). 1H NMR (400 MHz, DMSO-d6) ppm 1.28 (br. s., 1H) 1.50 (br. s., 1H) 1.63-1.72 (m, 2H) 1.86 (d, J=2.56 Hz, 1H) 2.02 (d, J=10.98 Hz, 1H) 2.83 (s, 1H) 2.94 (td, J=14.46, 6.59 Hz, 2H) 3.14 (s, 2H) 3.47 (br. s., 9H) 3.52 (br. s., 11H) 6.51 (br. s., 1H) 7.09 (d, J=2.93 Hz, 1H). LCMS m/z 488.8 (M+H calcd for C19H30N6O6PS requires 487.5). LCMS (C-18 column, gradient elution 5 minute chromatograph, 95:5 to 5:95 water/acetonitrile, retention time 1.23 min).

reactant | (3R)-1-[({trans-4-[methyl(7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]cyclohexyl}-methyl)sulfonyl]piperidin-3-ol | 0.24 mmol, 100 mg | CN([C@@H]1CC[C@H](CC1)CS(=O)(=O)N1C[C@@H](CCC1)O)C=1C2=C(N=CN1)NC=C2 | C19H29N5O3S
reactant | Diisopropylethylamine | 0.3 mmol, 0.05 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diethyl chloro phosphate | 0.24 mmol, 0.036 mL | P(=O)(OCC)(OCC)OCl | C4H10ClO4P
reactant | bromotrimethylsilane | 14.4 mmol, 2 mL | Br[Si](C)(C)C | C3H9BrSi
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | Methanol | 1 mL | CO | CH4O
product | (3R)-1-[({trans-4-[methyl(7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]cyclohexyl}methyl)sulfonyl]piperidin-3-yl dihydrogen phosphate | P(=O)(O[C@H]1CN(CCC1)S(=O)(=O)C[C@@H]1CC[C@H](CC1)N(C=1C2=C(N=CN1)NC=C2)C)(O)O | C19H30N5O6PS
